US07109186B2
Compound 104-A: N-(3,4-Dichloro-benzyl)-2-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-acetamide
To a stirred suspension of 3,4-dichlorobenzylamine (17.6 mg, 0.1 mmol) and resin bound morpholine (100 mg, 2.5–4.0 mmol/1 g) in CH2Cl2 (2 mL) was added (2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-acetyl chloride (20 mg, 0.11 mmol) and the mixture stirred for 1 h. The mixture filtered and the filtrate concentrated to give the product as a white solid (33 mg, 100% yield). 1H NMR (500 MHz, CDCl3) δ: 7.39 (2H, m), 7.15 (1H, m), 6.60 (1H, s), 5.89 (1H, s), 4.50 (2H, d, J=6.0 Hz), 1.74 (6H, s). MS calcd for C14H14Cl2NO4 [M+H]+: 330.03. found: 330.1.

reactant | 3,4-dichlorobenzylamine | 0.1 mmol, 17.6 mg | ClC=1C=C(CN)C=CC1Cl | C7H7Cl2N
reactant | morpholine | 2.5–4.0 mmol, 100 mg | N1CCOCC1 | C4H9NO
reactant | (2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-acetyl chloride | 0.11 mmol, 20 mg | CC1(OC(C(O1)=CC(=O)Cl)=O)C | C7H7ClO4
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-(3,4-Dichloro-benzyl)-2-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-acetamide | 33 mg, 100% yield | ClC=1C=C(CNC(C=C2OC(OC2=O)(C)C)=O)C=CC1Cl | C14H13Cl2NO4
